US08383637B2
{2-Amino-3-[3-(cyclohexyl-methyl-amino)-propyl]-3,4-dihydro-quinazolin-6-yl}-phenyl-methanone (Compound #15)
A mixture of (3-{[3-(Cyclohexyl-methyl-amino)-propylamino]-methyl}-4-nitro-phenyl)-phenyl-methanone (0.0037 mol) in ethanol (40 mL) was stirred at room temperature. Cyanogen bromide (0.0055 mol) was added, and the reaction mixture was stirred and refluxed for 4 hours, then cooled and the resulting precipitate was filtered off and dried. This fraction was recrystallized from CH3CN, then filtered off and recrystallized from methanol, filtered off, washed with diisopropyl ether, then dried to yield the title compound as a solid.

reactant | (3-{[3-(Cyclohexyl-methyl-amino)-propylamino]-methyl}-4-nitro-phenyl)-phenyl-methanone | 0.0037 mol | C1(CCCCC1)N(CCCNCC=1C=C(C=CC1[N+](=O)[O-])C(=O)C1=CC=CC=C1)C | C24H31N3O3
reactant | Cyanogen bromide | 0.0055 mol | N#CBr | CBrN
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | {2-Amino-3-[3-(cyclohexyl-methyl-amino)-propyl]-3,4-dihydro-quinazolin-6-yl}-phenyl-methanone | NC1=NC2=CC=C(C=C2CN1CCCN(C)C1CCCCC1)C(=O)C1=CC=CC=C1 | C25H32N4O
